data/specific_train_final.csv
"C[CH:10]C(C)O[N+](=O)[O-].[O:20][O]>>CC([CH:10](C)[O:20][O])O[N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"C(C(O[O:20])Cl)(O)Cl.[N+](=O)([O-])[O:10]>>C(C(O[O:20][O:10][N+](=O)[O-])Cl)(O)Cl 10-10,20;20-10,20",Room Temperature,Termination,recombine
"C(C(Cl)(Cl)Cl)[O:20][O:21]N=O>>C(C(Cl)(Cl)Cl)[O:20].N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[CH3:7][CH:6]([CH2:8][CH:9]=[O:10])[O:5][O:4][O:3][N+:2](=[O:11])[O-:1]>>[CH3:7][CH:6]([CH2:8][CH:9]=[O:10])[O:5][O:4][O:3].[N+:2](=[O:11])[O-:1] 2,3-2; 2,3-3",Room Temperature,Initiation,homolyze
"CCC12C=C[CH:10]C(C1O)[O:20][O:21]2>>CCC1(C=C[CH:10]2C(C1O)[O:20]2)[O:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,retroaddition
"CC(C(C)(C)O[O:20])O.[N+](=O)([O-])[O:10]>>CC(C(C)(C)O[O:20][O:10][N+](=O)[O-])O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CCCCO[CH:10]CO.[O:20][O]>>CCCCO[CH:10](CO)[O:20][O] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"C(C(O)Cl)[O:21][O:20][O].[N+](=O)[O-]>>C(C(O)Cl)[O:21].[N+](=O)[O-].[O:20][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[H:20][C:21](=O)C1C(O1)/C=C\C(=O)C(C)C.[OH:10]>>[H:20][OH:10].CC(C)C(=O)/C=C\C1C(O1)[C:21]=O 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CC(C)C(C[O:20])O.[N+:10](=O)[O-]>>CC(C)C(C[O:20][N+:10](=O)[O-])O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC(C)([CH2:10])OC.[O:20][O]>>CC(C)([CH2:10][O:20][O])OC 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:20][O:21][O].CC(CO)C(C)O[O:10]>>[H:20][O:10]OC(C)C(C)CO.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CC(COO)(C(CO)[O:20][O:21]N=O)O>>CC(COO)(C(CO)[O:20])O.N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CC(=O)OC(C)(C)[O:20][O:21][O].[N+](=O)[O-]>>CC(=O)OC(C)(C)[O:20].[N+](=O)[O-].[O:21][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"C(C([O:20][O:21][O])(Cl)Cl)(Cl)Cl>>C(C([O:20])(Cl)Cl)(Cl)Cl.[O:21][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CC1=C[C:20](C)([CH:21](C2(C1O2)C)O)[O:10]>>CC(=C[C:20](=[O:10])C)C1C(O1)([CH:21]O)C 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,retroaddition
"[H:15][O:14][O:13][CH2:12][CH:9]([C:2]([CH3:1])([CH2:3][O:4][N+:5](=[O:7])[O-:6])[OH:8])[O:10][O:11].[N:16]=[O:17]>>[H:15][O:14][O:13][CH2:12][CH:9]([C:2]([CH3:1])([CH2:3][O:4][N+:5](=[O:7])[O-:6])[OH:8])[O:10][O:11][N:16]=[O:17] 16-16,11; 11-11,16",Room Temperature,Termination,recombine
"CCCC(C)CO[O:20].[N+](=O)([O-])[O:10]>>CCCC(C)CO[O:20][O:10][N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC1=CCC(CC1O)C(C)(C)O[O:20].[N:10]=O>>CC1=CCC(CC1O)C(C)(C)O[O:20][N:10]=O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:20][O:21][O:11][O:10].CC([O])OCCO>>[H:20][O:10].CC([O])OCCO.[O:21][O:11] 10,11-10,20;10,11-11;20,21-10,20;20,21-21",Room Temperature,Initiation,homolyze
"C=C(CO[N+](=O)[O-])C(CO)[O:21][OH:20].[He]>>[He].C=C(CO[N+](=O)[O-])C(CO)[O:21].[OH:20] 20,21-20;20,21-21",Light,Initiation,homolyze
"[H:20][O:21]C1=C(C=C(C=C1C)C)C.[N+](=O)([O-])[O:10]>>[H:20][O:10][N+](=O)[O-].CC1=CC(=C(C(=C1)C)[O:21])C 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:20][CH:21](C(C)(C1CO1)O)O.[OH:10]>>[H:20][OH:10].CC([CH:21]O)(C1CO1)O 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CCCC(C(C)O[O:20])O[N+](=O)[O-].[N+](=O)([O-])[O:10]>>CCCC(C(C)O[O:20][O:10][N+](=O)[O-])O[N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CCC(C)C[O:20][O:21]N=O>>CCC(C)C[O:20].N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[H:20][O:21]C1=C(C=C(C=C1)C)C.[OH:10]>>[H:20][OH:10].CC1=CC(=C(C=C1)[O:21])C 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
[CH3:1][CH2:2][CH2:3][CH2:4][O:5][CH:6]([CH2:7][OH:8])[O:9].[N:11](=[O:10])[O:12]>>[CH3:1][CH2:2][CH2:3][CH2:4][O:5][CH:6]([CH2:7][OH:8])[O:9].[N+:11](=[O:10])[O-:12] 11-12,Room Temperature,Propagation,ha resonance
"[H:20][CH2:21]OCOC.[N+](=O)([O-])[O:10]>>[H:20][O:10][N+](=O)[O-].COCO[CH2:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CC(C)C(C)[O:20].[N+:10](=O)[O-]>>CC(C)C(C)[O:20][N+:10](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:20][O:21][O].CC(C(C)(C)O[N+](=O)[O-])O[O:10]>>[H:20][O:10]OC(C)C(C)(C)O[N+](=O)[O-].[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CCC12CC(C(C=C1)(C)OO[O:20][N+:21](=O)[O-])OO2>>CCC12CC(C(C=C1)(C)OO[O:20])OO2.[N+:21](=O)[O-] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CCCCC(=O)O[O:20].[N+](=O)([O-])[O:10]>>CCCCC(=O)O[O:20][O:10][N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[CH:10](C1[O:20][O:21]1)O>>C1([O:21])[O:20][CH:10]1O 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,retroaddition
